US04376204
B. 4-hydroxy-2-methyl-N-2-pyridyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (Y=NHC5H4N) (Piroxicam)
To a solution of 590 mg. (3 mmole) of N-methylsaccharin and 1.02 g. (6 mmole) of N-(2-pyridyl)chloroacetamide in 3 ml. of dimethylformamide at 40° C. was added 250 mg. (10.3 mmole) of 99% sodium hydride portionwise over a period of one hour. The reaction mixture was allowed to stir at 40° C. for 2.5 hours and was then added to 100 ml. of 5% hydrochloric acid solution and 300 ml. of ice. The precipitate was filtered and dried to give 24 mg.

reactant | N-methylsaccharin | 3 mmole | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | N-(2-pyridyl)chloroacetamide | 6 mmole | N1=C(C=CC=C1)NC(CCl)=O | C7H7ClN2O
reactant | sodium hydride | 10.3 mmole | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-hydroxy-2-methyl-N-2-pyridyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C15H13N3O4S
